US06413938B1
C. 5-Chloro-3,4-difluoro-1,2-phenylenediamine
4-Chloro-2,3-difluoro-6-nitroaniline (11.4 g, 54.4. mmol), Raney nickel (Aldrich, Milwaukee, slurry in water, 2.2 g wet) and ethanol (200 mL) were combined in a stirred Parr reactor which was pressurized with hydrogen (250 psig). The mixture was allowed to stir at rt overnight, after which time the reactor was depressurized and the mixture was filtered through Celite and the solvents were removed in vacuo. The remaining residue was dissolved in ethyl acetate, dried over magnesium sulfate and the solvents were removed in vacuo to afford a brownish solid (11.6 g, crude weight); 1H NMR (DMSO-d6) δ: 6.43 (d, J=5.7 Hz, 1H, Ar—H), 5.25 (very br s, 4H, overlapping NH2).

reactant | 4-Chloro-2,3-difluoro-6-nitroaniline | 11.4 g | ClC1=C(C(=C(N)C(=C1)[N+](=O)[O-])F)F | C6H3ClF2N2O2
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 2.2 g | [Ni] | Ni
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 5-Chloro-3,4-difluoro-1,2-phenylenediamine | ClC=1C(=C(C(=C(C1)N)N)F)F | C6H5ClF2N2
